US20010053779A1
Lithium bromide (136 g, 1.56 mol.) was dissolved in tetrahydrofuran (600 mL) at 0° C. The mixture was allowed to warm to 23° C. and then tert-butyl 2-methylsulfonyloxyethylcarbamate (37.39 g, 156 mmol) was added dropwise. The mixture was stirred at 23° C. for 18 hours and concentrated in vacuo. The residue was dissolved in hexanes and the organic layer was washed with water and brine, dried (Na2SO4) and concentrated in vacuo to provide tert-butyl 2-bromoethylcarbamate (33.48 g, 96% yield) as a brown oil; MS (PB-PCI) C7H14BrNO2 m/e calc 224.10; found 225 (MH+).

reactant | Lithium bromide | 1.56 mol, 136 g | [Br-].[Li+]
reactant | tert-butyl 2-methylsulfonyloxyethylcarbamate | 156 mmol, 37.39 g | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-bromoethylcarbamate | 33.48 g, 96% yield | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
